US05807899
A solution of 23.4 g of 1,4-diiodobenzene in 124 ml of tetrahydrofuran is mixed drop by drop at -70° C. under nitrogen with 45 ml of a 1.6 molar butyllithium solution, and it is stirred for 5 more minutes. Then, a solution of 18 g of 1-(4-benzyloxy-phenyl)-2-phenyl-butan-1-one [D. W. Robertson; J. A. Katzenellenbogen; D. J. Ellen; A. Rorke; B. S. Katzenellenbogen, J. Steroid Biochem., 1982, 16, 1-13] in 180 ml of tetrahydrofuran is added in drops, allowed to come to room temperature by completing the cooling, and it is stirred for 1 more hour. For working-up, 60 ml of saturated ammonium chloride solution is added, diluted with diethyl ether, washed neutral with water, dried on sodium sulfate, concentrated by evaporation in a vacuum and chromatographed on silica gel with pentane/diethyl ether. 31.5 g of 1-(4-benzyloxy-phenyl)-1-(4-iodophenyl)-2-phenyl-butan-1-ol is obtained as oil.

reactant | 1,4-diiodobenzene | 23.4 g | IC1=CC=C(C=C1)I | C6H4I2
reactant | butyllithium | 1.6 molar | C(CCC)[Li]
reactant | 1-(4-benzyloxy-phenyl)-2-phenyl-butan-1-one | 18 g | C(C1=CC=CC=C1)OC1=CC=C(C=C1)C(C(CC)C1=CC=CC=C1)=O | C23H22O2
reactant | ammonium chloride | 60 ml | [Cl-].[NH4+]
solvent | tetrahydrofuran | 124 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 180 ml | O1CCCC1 | C4H8O
solvent | diethyl ether | C(C)OCC | C4H10O
product | 1-(4-benzyloxy-phenyl)-1-(4-iodophenyl)-2-phenyl-butan-1-ol | 31.5 g | C(C1=CC=CC=C1)OC1=CC=C(C=C1)C(C(CC)C1=CC=CC=C1)(O)C1=CC=C(C=C1)I | C29H27IO2
